US04022897
By substituting 4-bromo-2-nitraminopyridine for the 4-chloro-2-nitraminopyridine in Example I-5, there is obtained 2-amino-4-bromo-3-pyridinol.

reactant | 4-bromo-2-nitraminopyridine | BrC1=CC(=NC=C1)N[N+](=O)[O-] | C5H4BrN3O2
reactant | 4-chloro-2-nitraminopyridine | ClC1=CC(=NC=C1)N[N+](=O)[O-] | C5H4ClN3O2
product | 2-amino-4-bromo-3-pyridinol | NC1=NC=CC(=C1O)Br | C5H5BrN2O
